US06165942
Synthesis of 3-(4-bromo-2-fluorophenyl)-3,4-dihydro-2-((2,2-dimethoxyethyl)amino)-6-trifluoromethylpyrimidin-4-one
3-(4-Bromo-2-fluorophenyl)-3,4-dihydro-2-methylthio-6-trifluoromethylpyrimidin-4-one (21.5 g) and aminoacetaldehyde diethyl acetal (15 g) were stirred for 3 hours at 130° C. The excess aminoacetaldehyde diethyl acetal was distilled off under reduced pressure and the residue was used in the next reaction as it was.

reactant | 3-(4-Bromo-2-fluorophenyl)-3,4-dihydro-2-methylthio-6-trifluoromethylpyrimidin-4-one | 21.5 g | BrC1=CC(=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)SC)F | C12H7BrF4N2OS
reactant | aminoacetaldehyde diethyl acetal | 15 g | C(C)OC(CN)OCC | C6H15NO2
product | 3-(4-bromo-2-fluorophenyl)-3,4-dihydro-2-((2,2-dimethoxyethyl)amino)-6-trifluoromethylpyrimidin-4-one | BrC1=CC(=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)NCC(OC)OC)F | C15H14BrF4N3O3
